US07825120B2
A stirred slurry of tert-butyl 4-(2-hydroxy-5-iodobenzoyl)piperazine-1-carboxylate (7.06 g, 16.33 mmol) and potassium hydroxide (30% aqueous, 120 mL) in 2-propanol (200 mL) at 50° C. was treated with chlorodifluoromethane by bubbling a stream of the gaseous reagent through the stirring reaction mixture for 6 min. The reaction mixture was placed in a Parr high pressure reaction vessel, heated at 80° C. for 16 h and then cooled to ambient temperature. The resulting solution was concentrated to remove 2-propanol and the aqueous portion was extracted with ethyl acetate (3×200 mL). The organic portions were dried (Na2SO4) and concentrated. The residue was purified by reverse phase HPLC to give 5.55 g of tert-butyl 4-(2-(difluoromethoxy)-5-iodobenzoyl)piperazine-1-carboxylate as a white solid.

reactant | tert-butyl 4-(2-hydroxy-5-iodobenzoyl)piperazine-1-carboxylate | 16.33 mmol, 7.06 g | OC1=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)I | C16H21IN2O4
reactant | potassium hydroxide | 120 mL | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
product | tert-butyl 4-(2-(difluoromethoxy)-5-iodobenzoyl)piperazine-1-carboxylate | 5.55 g | FC(OC1=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C=C1)I)F | C17H21F2IN2O4
